US06433169B1
1. Preparation of 2-Fluoro-6-trifluoromethylbenzenesulfonyl Chloride
To a mechanically stirred mixture of 2-fluoro-6-trifluoromethylaniline (10.0 g, 55.8 mmol) in concentrated hydrochloric acid (20 mL) and glacial acetic acid (6 mL) was added a solution of sodium nitrite (4.25 g, 61.4 mmol) in water (6 mL) dropwise at −10° C. The resulting orange/white suspension was stirred at −10° C. for 30 minutes, then added in portions to a solution of cuprous chloride (1.7 g, 16.7 mmol) and sulfur dioxide (about 20 g, 312 mmol) in glacial acetic acid (60 mL) at 0° C. A mild exotherm and vigorous gas evolution were observed after each addition. The resulting dark green mixture was warmed to room temperature and stirred for 25 minutes (min). The reaction was poured into ice water (600 mL) and extracted with diethyl ether. The organics were combined, washed with aqueous sodium bicarbonate, dried (MgSO4), filtered, and the solvent removed in vacuo to afford the crude product as a dark oil (8.45 g, 15 58% yield).

reactant | 2-fluoro-6-trifluoromethylaniline | 55.8 mmol, 10.0 g | FC1=C(N)C(=CC=C1)C(F)(F)F | C7H5F4N
reactant | sodium nitrite | 61.4 mmol, 4.25 g | N(=O)[O-].[Na+]
reactant | sulfur dioxide | 312 mmol, about 20 g | S(=O)=O | O2S
reactant | hydrochloric acid | 20 mL | Cl | ClH
solvent | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
solvent | water | 6 mL | O | H2O
solvent | acetic acid | 60 mL | C(C)(=O)O | C2H4O2
product | 2-Fluoro-6-trifluoromethylbenzenesulfonyl Chloride | 8.45 g, 58% yield | FC1=C(C(=CC=C1)C(F)(F)F)S(=O)(=O)Cl | C7H3ClF4O2S
